US03966746
d. 4-Butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonyl chloride
26.2 g of 4-butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid (0.1 mol) and 100 ml of thionyl chloride are refluxed for 4 hours. The thionyl chloride is removed by means of a water aspirator. The residue, containing the crude 4-butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonyl chloride, is recrystallized from benzene, and has a melting point of 142°-145°. Yield 23.5 g = 84% of theory.

reactant | 4-butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 0.1 mol, 26.2 g | C(CCC)NC1=C2C(=NC=C1C(=O)O)N(N=C2)CC | C13H18N4O2
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonyl chloride | C(CCC)NC1=C2C(=NC=C1C(=O)Cl)N(N=C2)CC | C13H17ClN4O
